* Schaum Basic Circuit Analysis, Exercise 3.26 / Fig. 3-12.
* Eleft imposes V(dep_top, 0) = 4 * V(v1, 0).
* Fdep current from v1 to 0 is 0.5 * I1, where I1 is the R16 branch current.
V24 src 0 24
R16 src dep_top 16
Eleft dep_top 0 v1 0 4
Fdep v1 0 R16 0.5
R4 v1 0 4
