* Schaum Basic Circuit Analysis, Exercise 3.57.
* 15-V charger, 12-V battery, 0.3-ohm internal resistance, and unknown limiter R.
V15 charger 0 15
Rlimit charger battery_top R
Rint battery_top battery_ideal 0.3
V12 battery_ideal 0 12
.constraint (le (current Rlimit) 2)
