* Schaum Basic Circuit Analysis, Exercise 3.58.
* Unknown resistor in series with 100 ohms absorbs 80 W from a 240-V line.
V240 src 0 240
Rx src mid R
R100 mid 0 100
.constraint (eq (power Rx) 80)
