* Schaum Basic Circuit Analysis, Exercise 3.67 / Fig. 3-32.
* Calculate V1. Values use mA and kOhm, so resistor drops are in volts.
V72 left_top 0 72
R2 left_top dep_left 2
Edep dep_left 0 out_top 0 0.5
Fdep 0 out_top R2 2
R4 out_top 0 4
