* Schaum Basic Circuit Analysis, Exercise 3.71.
* Three parallel resistors have total conductance 2 mS.
* Values use kOhm, so conductance is in mS.
R1 a 0 1
R5 a 0 5
Rx a 0 R
.constraint (eq (inv (rth a 0)) 2)
