* Schaum Basic Circuit Analysis, Exercise 3.72.
* Three parallel resistors have equivalent resistance 10 ohms.
R40 a 0 40
R60 a 0 60
Rx a 0 R
.constraint (eq (rth a 0) 10)
