* Schaum Basic Circuit Analysis, Exercise 3.81 / Fig. 3-36.
* Find R1 and R2. The total source current is 2 A, and the R1 current is 0.4 A.
V12 src 0 12
Rseries src top 2
R1 top 0 R1
R2 top 0 R2
*
* Vload = 12 V - (2 A)(2 ohm) = 8 V.
* The remaining branch current is 2 A - 0.4 A = 1.6 A.
.constraint (eq Vload (sub 12 (mul 2 2)))
.constraint (eq (mul 0.4 R1) Vload)
.constraint (eq (mul (sub 2 0.4) R2) Vload)
