* Schaum Basic Circuit Analysis, Exercise 3.84.
* A 620-V source feeds 50 ohm in series with R || 20.
* The 20-ohm resistor has 120 V across it.
V620 src 0 620
R50 src out 50
Rx out 0 R
R20 out 0 20
.constraint (eq (voltage out 0) 120)
