* Schaum Basic Circuit Analysis, Exercise 3.86 / Fig. 3-38.
* The 120-V, 60-W bulb is modeled as 240 ohm.
Vsup src 0 Vs
R10 src left 10
R55 left 0 55
R40 left bulb 40
R60 bulb 0 60
Rbulb bulb 0 240
.constraint (eq (voltage bulb 0) 120)
