* Topology rewrite demo.
* Rb1 and Rb2 have the same two terminals, so they can become one resistor:
* Rpar1 out 0 (par Rb1 Rb2)
V1 in 0 Vin
Rtop in out Rtop
Rb1 out 0 Rb1
Rb2 out 0 Rb2
